US04400293
31.5 g of 4-(trans-4-n-propylcyclohexyl)-2-bromothiophenol [prepared from 4-(trans-4-n-propylcyclohexyl)-2-bromophenol obtained according to Example 3 by reaction with dimethylthiocarbamoyl chloride, thermal rearrangement and hydrolysis analogously to Organic Syntheses, Volume 51 (1971), pages 139-142] is etherified with 21.5 g of 4-ethoxybenzyl bromide analogously to Example 1(d). There is obtained 40.2 g of 4-(trans-4-n-propylcyclohexyl)-2-bromophenyl-(4-ethoxybenzyl)thioether.

reactant | 4-(trans-4-n-propylcyclohexyl)-2-bromothiophenol | 31.5 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)S)Br | C15H21BrS
reactant | 4-(trans-4-n-propylcyclohexyl)-2-bromophenol | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)O)Br | C15H21BrO
reactant | dimethylthiocarbamoyl chloride | CN(C(=S)Cl)C | C3H6ClNS
reactant | 4-ethoxybenzyl bromide | 21.5 g | C(C)OC1=CC=C(CBr)C=C1 | C9H11BrO
product | 4-(trans-4-n-propylcyclohexyl)-2-bromophenyl-(4-ethoxybenzyl)thioether | 40.2 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C(C1=CC=C(C=C1)OCC)SC(C1=CC=C(C=C1)OCC)C1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCC)Br)Br | C48H60Br2O2S
